US06239151B1
A solution of 0.155 g of N,N-dimethylglycine in 10 ml of dimethylformamide was treated in sequence with 0.167 ml of N-ethylmorpholine, 0.216 g of 1-hydroxybenzotriazole and 0.307 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride. Stirring was continued for 1 hour at room temperature and then 0.459 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide was added. Stirring was continued overnight and then the mixture was diluted with ethyl acetate and washed in sequence with 5% aqueous sodium hydrogen carbonate and brine. Drying over magnesium sulphate and evaporation gave 0.591 g of (E)-2(R)-[1(S)-(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[2-(dimethylamino)acetyl]valerohydrazide in the form of a white solid.

reactant | N,N-dimethylglycine | 0.155 g | CN(CC(=O)O)C | C4H9NO2
reactant | N-ethylmorpholine | 0.167 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole | 0.216 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.307 g | Cl.C(C)N=C=NCCCN(C)C
reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.459 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2′-isobutyl-4-methyl-2′-[2-(dimethylamino)acetyl]valerohydrazide | C(C(C)C)N(NC(CCC(C)C)=O)C(CN(C)C)=O | C14H29N3O2
